US08426408B2
2-(4-amino-1H-pyrazol-1-yl)-N,N-dimethylacetamide
A solution of N,N-dimethyl-2-(4-nitro-1H-pyrazol-1-yl)acetamide (870 mg, 4.39 mmol) in methanol (22 ml) was evacuated/purged with nitrogen and treated with Pd on carbon (87 mg, 0.082 mmol). The resulting black suspension was evacuated/purged with a hydrogen balloon and stirred under the hydrogen overnight when the mixture was filtered through celite with methanol washes. The filtrate was concentrated to give the product.

reactant | N,N-dimethyl-2-(4-nitro-1H-pyrazol-1-yl)acetamide | 4.39 mmol, 870 mg | CN(C(CN1N=CC(=C1)[N+](=O)[O-])=O)C | C7H10N4O3
solvent | methanol | 22 ml | CO | CH4O
catalyst | Pd on carbon | 0.082 mmol, 87 mg | [Pd] | Pd
product | 2-(4-amino-1H-pyrazol-1-yl)-N,N-dimethylacetamide | NC=1C=NN(C1)CC(=O)N(C)C | C7H12N4O
